US04663331
A flask fitted with a dry ice condenser was charged with liquid ammonia (250 ml). To this was added sodium (0.24 mol) in portions together with a few grains of ferric nitrate; subsequently dimethylaminoprop-2-yne (0.24 mol) was added. The reaction mixture was stirred for one hour, 3-bromopropylamine hydrochloride (0.24 mol) was added in portions and the mixture stirred for a further two hours. Anhydrous diethyl ether (150 ml) was added and excess ammonia was allowed to evaporate overnight. The reaction mixture wws dissolved in methanol and evaporated under reduced pressure to afford a residue, which was partitioned between chloroform and water. The aqueous layer was washed with chloroform (5×150 ml). The chloroform extracts were combined, dried over MgSO4, filtered and evaporated under reduced pressure to give 6-dimethylaminohex-4-ynylamine as an oil (5.4 g).

reactant | ammonia | 250 ml | N | H3N
reactant | sodium | 0.24 mol | [Na] | Na
reactant | dimethylaminoprop-2-yne | 0.24 mol | CN(C)CC#C | C5H9N
reactant | 3-bromopropylamine hydrochloride | 0.24 mol | Cl.BrCCCN
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 6-dimethylaminohex-4-ynylamine | 5.4 g | CN(CC#CCCCN)C | C8H16N2
